US07977344B2
4-(2,2-Dimethyltetrahydro-2H-pyran-4-yl)-1-butanol
A solution of 2,2-dimethyl-4-{4-[(phenylmethyl)oxy]-1-buten-1-yl}tetrahydro-2H-pyran (7.46 g, 27.2 mmol) I ethyl acetate (70 ml) was hydrogenated over 10% palladium on activated carbon (1.447 g, 1.359 mmol) at atmospheric pressure and room temperature. After 16 hours, the mixture was filtered under vacuum through Celite, washed through with EtOAc (2×50 ml) and the filtrate was evaporated to dryness to give a yellowish mobile oil (4.8 g). The residue was purified by chromatography on silica (70 g) using a cyclohexane:ethyl acetate 0->50% gradient over 40 mins using a Flashmaster II. The desired fractions (analysed with a permanganate dip) were combined and concentrated under vacuum to give the title compound as a yellow oil (1.675 g).

reactant | 2,2-dimethyl-4-{4-[(phenylmethyl)oxy]-1-buten-1-yl}tetrahydro-2H-pyran | 27.2 mmol, 7.46 g | CC1(OCCC(C1)C=CCCOCC1=CC=CC=C1)C | C18H26O2
catalyst | palladium on activated carbon | 1.359 mmol, 1.447 g | [Pd] | Pd
solvent | ethyl acetate | 70 ml | C(C)(=O)OCC | C4H8O2
product | 4-(2,2-Dimethyltetrahydro-2H-pyran-4-yl)-1-butanol | 4.8 g | CC1(OCCC(C1)CCCCO)C | C11H22O2
